US07615642B2
Step D: N-(4-{[(4-Fluorocyclohex-3-en-1-yl)methyl]amino}-3-nitrophenyl)acetamide
N-(4-Fluoro-3-nitrophenyl)acetamide (460 mg, 2.32 mmol) and [(4-fluorocyclohex-3-en-1-yl)methyl]amine hydrochloride (350 mg, 2.11 mmol) were stirred in 20 mL of EtOH containing TEA (0.735 mL, 5.28 mmol) at 75° C. for 48 h. The solvent was concentrated. The residue was dissolved in EtOAc and washed with aqueous 5% KHSO4, saturated aqueous NaHCO3 solution, brine and dried over anhydrous MgSO4. The crude product was purified by flash chromatography on silica gel using hexanes/acetone (2:1) as eluent. Yield: 553 mg (85%). 1H NMR (400 MHz, CDCl3) δ 1.51-1.61 (m, 1 H), 1.84-1.93 (m, 1 H), 1.96-2.03 (m, 2 H), 2.16-2.18 (m, 3 H), 2.22-2.32 (m, 3 H), 3.26 (td, J=6.05, 2.93 Hz, 2 H), 5.19 (dt, J=16.45, 2.61 Hz, 1 H), 6.84 (d, J=9.37 Hz, 1 H), 7.21 (s, 1 H), 7.79 (dd, J=9.18, 2.54 Hz, 1 H), 8.09 (d, J=2.54 Hz, 2 H).

reactant | N-(4-Fluoro-3-nitrophenyl)acetamide | 2.32 mmol, 460 mg | FC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7FN2O3
reactant | [(4-fluorocyclohex-3-en-1-yl)methyl]amine hydrochloride | 2.11 mmol, 350 mg | Cl.FC1=CCC(CC1)CN
solvent | EtOH | 20 mL | CCO | C2H6O
product | N-(4-{[(4-Fluorocyclohex-3-en-1-yl)methyl]amino}-3-nitrophenyl)acetamide | FC1=CCC(CC1)CNC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C15H18FN3O3
